US08168658B2
Step B: 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylic acid.
Ethyl 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylate (0.56 g, 1.33 mmol) was made 0.5 M in dioxane and to this stirring solution was added 3 equivalents 3M LiOH (1.33 mL, 3.98 mmol). The resulting mixture was stirred at ambient temperature for 3 hours. The mixture was adjusted to pH 6 with 1 M HCl then concentrated in vacuo to give the desired product. MS: cal'd 394, 396 (MH+), exp 394, 396 (MH+).

reactant | Ethyl 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylate | 1.33 mmol, 0.56 g | ClC1=CC=C(C=C1)NC(C(N1CCN(CC1)C)C1=CC=C(S1)C(=O)OCC)=O | C20H24ClN3O3S
reactant | LiOH | 3.98 mmol, 3M, 1.33 mL, 3 equivalents | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylic acid | ClC1=CC=C(C=C1)NC(C(N1CCN(CC1)C)C1=CC=C(S1)C(=O)O)=O | C18H20ClN3O3S
